US06821980B1
(14e) 3-Fluoro-4-methoxy-benzenesulphonic acid 3′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-yl ester (method 2)
Starting from 3′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-ol (100 mg; 0.28 mmol) and 3-fluoro-4-methoxy-benzenesulphonyl chloride (115 mg; 0.51 mmol), 115 mg of the title compound are obtained as a pale yellow solid.

reactant | 3′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-ol | 0.28 mmol, 100 mg | NC=1C=C(C=CC1)C=1C(=CC(=CC1OCC)CC=1C(=NC(=NC1)N)N)O | C19H21N5O2
reactant | 3-fluoro-4-methoxy-benzenesulphonyl chloride | 0.51 mmol, 115 mg | FC=1C=C(C=CC1OC)S(=O)(=O)Cl | C7H6ClFO3S
product | 3-Fluoro-4-methoxy-benzenesulphonic acid 3′-amino-4-(2,4-diamino-pyrimidin-5-ylmethyl)-6-ethoxy-biphenyl-2-yl ester | 115 mg | NC=1C=C(C=CC1)C1=C(C=C(C=C1OCC)CC=1C(=NC(=NC1)N)N)OS(=O)(=O)C1=CC(=C(C=C1)OC)F | C26H26FN5O5S
